US06348459B1
Step 4 Preparation of 4-(2-Fluoro-4-nitrophenyl)tetrahydro-2H-1,2-thiazine 1,1-dioxide
4-(2-Fluoro-4-nitrophenyl)dihydro-2H-1,2-thiazin-3(4H)-one 1,1-dioxide (2.43 g, 8.44 mmol) and sodium borohydride (3.83 g, 101.3 mmol) are placed under nitrogen and dry THF (70 ml) added. To the ice cooled suspension is added trifluoroacetic acid (7.8 ml, 101.3 mmol) over 5 min. After stirring for 16 hr additional trifluoroacetic acid (20.0 ml, 260 mmol) is added followed by methanol (20 ml). The solution is evaporated and the residue dissolved in ethyl acetate (150 ml) and washed with sodium bicarbonate solution (3×100 ml) and brine (50 ml). Evaporation gives a yellow gum which is chromatographed over silica gel (90 g) eluting with 1-3% methanol-chloroform. The title compound is obtained as a gum (1.99 g, 86%): Calcd for C10H11FN2O4S: C, 43.79; H, 4.04; N, 10.21. Found: C, 43.72; H, 4.07; N, 10.11.

reactant | 4-(2-Fluoro-4-nitrophenyl)dihydro-2H-1,2-thiazin-3(4H)-one 1,1-dioxide | 8.44 mmol, 2.43 g | FC1=C(C=CC(=C1)[N+](=O)[O-])C1C(NS(CC1)(=O)=O)=O | C10H9FN2O5S
reactant | sodium borohydride | 101.3 mmol, 3.83 g | [BH4-].[Na+]
reactant | THF | 70 ml | C1CCOC1 | C4H8O
reactant | trifluoroacetic acid | 101.3 mmol, 7.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 260 mmol, 20.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2-Fluoro-4-nitrophenyl)tetrahydro-2H-1,2-thiazine 1,1-dioxide | FC1=C(C=CC(=C1)[N+](=O)[O-])C1CNS(CC1)(=O)=O | C10H11FN2O4S
